US06818663B2
To a stirred solution of 3-ethylacetophenone (Maybridge Chemical; 1.103 g, 7.44 mmol) in dry 1,4-dioxane (15 mL) was added bromine (383 μL, 7.44 mmol). The solution was stirred at room temperature for 30 min. and then the solvent was removed on a rotary evaporator. The residue was chromatographed on a Foxy 200 machine (Isco, Inc., P.O. Box 82531, Lincoln, Nebr. 68501, USA.; eluent, 5%CH2Cl2/Hexane, 0-2 min. then 20-30% CH2Cl2/Hexane, 2-20 min.) to give 2-bromo-1-(3-ethylphenyl)ethanone (1.15 g, 68%) as a clear oil.

reactant | 3-ethylacetophenone | 7.44 mmol, 1.103 g | CCC1=CC=CC(=C1)C(=O)C | C10H12O
reactant | bromine | 7.44 mmol, 383 μL | BrBr | Br2
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 2-bromo-1-(3-ethylphenyl)ethanone | 1.15 g, 68% | BrCC(=O)C1=CC(=CC=C1)CC | C10H11BrO
